US05840745
5-ureido-3-(quinol-4-ylmethylene)-2-oxindole
To a mixture of 5-amino-3-(quinol-4-ylmethylene)-2-oxindole (2.873 g, 10 mmol) in ice water (20 ml) was added 5N HCl (2 ml, 10 mmol) under stirring. Then the mixture was heated to 70°-80° C., sodium cyanate (0.715 g, 11 mmol) was added portionwise and the stirring was continued for further 4 h at this temperature. After cooling, the raw product was extracted with CHCl3, the organic layer washed to neutrality with saline solution, dried and evaporated in vacuo. The residue was chromatographed on silica gel, using CHCl3 --MeOH mixtures as eluant to give pure title compound in about 50% yield.

reactant | 5-amino-3-(quinol-4-ylmethylene)-2-oxindole | 10 mmol, 2.873 g | NC=1C=C2C(C(NC2=CC1)=O)=CC1=CC=NC2=CC=CC=C12 | C18H13N3O
reactant | HCl | 10 mmol, 5N, 2 ml | Cl | ClH
reactant | sodium cyanate | 11 mmol, 0.715 g | [O-]C#N.[Na+]
product | 5-ureido-3-(quinol-4-ylmethylene)-2-oxindole | about 50% yield | N(C(=O)N)C=1C=C2C(C(NC2=CC1)=O)=CC1=CC=NC2=CC=CC=C12 | C19H14N4O2
